US08383641B2
61.1 2-Methyl-3-nitro-6-(pyrrolidin-3-yloxy)pyridine
6-Methyl-5-nitropyridin-2-ol (5 g) was dissolved in tetrahydrofuran and DL-3-pyrrolidinol (2.83 g) and triphenylphosphine (12.76 g) were added. Di-tert-butyl (E)-diazene-1,2-dicarboxylate (11.21 g) dissolved in tetrahydrofuran (15 mL) was added dropwise over 15 min. The reaction mixture was stirred at room temperature for 50 h. The reaction mixture was concentrated in vacuo. The remaining residue was suspended in dichloromethane and trifluoroacetic acid (7.55 mL) was added dropwise. The reaction mixture was stirred for 12 h at room temperature. The reaction mixture was concentrated in vacuo, redissolved in dichloromethane and extracted several times with 1N hydrochloric acid. The combined aqueous extracts were treated with 1N NaOH to pH 10 and extracted with ethyl acetate (3×). The combined ethyl acetate extracts were successively washed with water and brine and dried (sodium sulfate). After concentration in vacuo, the crude product was purified by flash chromatography (silica, dichloromethane, 1-10% methanol gradient). Yield: 1.5 g (18.6%, pale yellow oil).

reactant | 6-Methyl-5-nitropyridin-2-ol | 5 g | CC1=C(C=CC(=N1)O)[N+](=O)[O-] | C6H6N2O3
reactant | DL-3-pyrrolidinol | 2.83 g | C1CNCC1O | C4H9NO
reactant | triphenylphosphine | 12.76 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Di-tert-butyl (E)-diazene-1,2-dicarboxylate | 11.21 g | N(=N\C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-Methyl-3-nitro-6-(pyrrolidin-3-yloxy)pyridine | CC1=NC(=CC=C1[N+](=O)[O-])OC1CNCC1 | C10H13N3O3
